US09086548B2
The precursor solution of zirconium oxychloride octahydrate (Mol. Wt. 322.25 grams/mole) was prepared by dissolving the salt into DMF at a concentration of 1.3 molar. Care was taken to ensure that the salt is completely dissolved via rapid continuous agitation and ultrasonic bath treatment. Specifically, 15.46 grams of zirconium oxychloride were dissolved into 23 ml of dimethylformamide to yield a final solution of about 30 ml. The precursor solution was clear, colorless and stable for several months. The solution could be adjusted to include salts of yttria and/or scandium chloride. A volume of about 10 microliters of the precursor solution was applied to the YSZ ferrule while threaded onto the receiving fiber. The ferrule was moved forward over the liquid to distribute the liquid throughout the fiber and ferrule interface. An 810 nm solid state IR laser was used as a heating source which when focused onto the ferrule solidified the liquid into solid inorganic interfacial bonding material between the spacing of the ferrule and fiber.

reactant | zirconium oxychloride | 15.46 grams | O(Cl)Cl.[Zr]
solvent | dimethylformamide | 23 ml | CN(C=O)C | C3H7NO
solvent | DMF | CN(C)C=O | C3H7NO
product | zirconium oxychloride octahydrate | O.O.O.O.O.O.O.O.O(Cl)Cl.[Zr] | InChI=1S/Cl2O.8H2O.Zr/c1-3-2;;;;;;;;;/h;8*1H2;
